US08076482B2
Preparation of intermediate chiral (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]2,6′(1H)-dione
A mixture of chiral (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (4.8 g, 8.03 mmol), NaOH (1.6 g, 40 mmol), H2O (30 mL) and methanol (50 mL) was heated at 80° C. for 1 h. Then methanol was removed under reduced pressure and the aqueous solution was acidified by concentrated hydrochloride to “pH” 1-2. The white precipitate was collected by filtration and dried to give the title compound as a white solid (4 g).

reactant | 6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 8.03 mmol, 4.8 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OCC)=O)C1=C(C=CC(=C1)F)C)=O | C31H29Cl2FN2O5
reactant | NaOH | 40 mmol, 1.6 g | [OH-].[Na+]
reactant | H2O | 30 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]2,6′(1H)-dione | 4 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C29H25Cl2FN2O5
